US04316042
(a) N-Isopropyl-N-(3-methyl-1,3-butadienyl)-carbamic acid methyl ester
To a stirred solution of 657 g diethylaniline in 2 liter toluene is added dropwise over ca. 5 minutes 416 g methyl chloroformate. Then to the stirred mixture 500 g N-(3-methyl-2-butenyliden)-isopropylamine in 500 ml toluene is added dropwise over 2 hours, maintaining the temperature between 25° and 30° C. Stirring is continued for 1 hour upon completion of the addition and the reaction mixture is treated with 400 ml of water and 90 ml conc. hydrochloric acid. The organic phase is washed with 600 ml of saturated aqueous sodium bicarbonate solution and with 600 ml water, dried and evaporated in vacuo to give the heading compound.

reactant | diethylaniline | 657 g | CCN(CC)C=1C=CC=CC1 | C10H15N
reactant | methyl chloroformate | 416 g | ClC(=O)OC | C2H3ClO2
reactant | N-(3-methyl-2-butenyliden)-isopropylamine | CC(=CC=NC(C)C)C | C8H15N
reactant | hydrochloric acid | 90 ml | Cl | ClH
solvent | toluene | 2 liter | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 400 ml | O | H2O
product | N-Isopropyl-N-(3-methyl-1,3-butadienyl)-carbamic acid methyl ester | COC(N(C=CC(=C)C)C(C)C)=O | C10H17NO2
